US07307084B2
BK. 7-Hydroxy-2-methyl-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazole-5-carboxylic Acid Dimethylamide
A solution of 3.6 g (8.3 mmol) 7-benzyloxy-2-methyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzo-imidazole-5-carboxylic acid dimethylamide in 400 ml ethanol was hydrogenated over 365 mg 10% Pd/C at room temperature for 1 h. The catalyst was filtered off and the filtrate was concentrated in vacuo. The residue was crystallized from diisopropyl ether to afford 2.6 g (89%) of the title compound as a while solid. m.p. 150°-151° C.

reactant | 7-benzyloxy-2-methyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-benzo-imidazole-5-carboxylic acid dimethylamide | 8.3 mmol, 3.6 g | CN(C(=O)C1=CC2=C(N=C(N2COCC[Si](C)(C)C)C)C(=C1)OCC1=CC=CC=C1)C | C24H33N3O3Si
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | Pd/C | 365 mg | [Pd] | Pd
product | 7-Hydroxy-2-methyl-(2-trimethylsilanyl-ethoxymethyl)-3H-benzimidazole-5-carboxylic Acid Dimethylamide | 2.6 g, 89% | CN(C(=O)C1=CC2=C(N=C(N2COCC[Si](C)(C)C)C)C(=C1)O)C | C17H27N3O3Si
